US06281243B1
(R)-(−)-3-[(2,3-Dihydro-5-methoxy-1H-inden-4-yl)oxy]-pyrrolidine hydrochloride
(rac)-3-[(1-Naphtalenyl)oxy]pyrrolidine hydrochloride m.p. 222° C., starting from (rac)-3-[(1-naphtalenyl)oxy]-1-(phenylmethyl)-pyrrolidine.

reactant | (rac)-3-[(1-Naphtalenyl)oxy]pyrrolidine hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)OC1CNCC1
reactant | (rac)-3-[(1-naphtalenyl)oxy]-1-(phenylmethyl)-pyrrolidine | C1(=CC=CC2=CC=CC=C12)OC1CN(CC1)CC1=CC=CC=C1 | C21H21NO
product | (R)-(−)-3-[(2,3-Dihydro-5-methoxy-1H-inden-4-yl)oxy]-pyrrolidine hydrochloride | Cl.COC=1C(=C2CCCC2=CC1)O[C@H]1CNCC1 | InChI=1S/C14H19NO2.ClH/c1-16-13-6-5-10-3-2-4-12(10)14(13)17-11-7-8-15-9-11;/h5-6,11,15H,2-4,7-9H2,1H3;1H/t11-;/m1./s1
